US07700625B2
A solution of dimethyl 4-methoxyphthalate (36.75 g, 0.16 mol) in methanol (100 ml) was treated with a solution of potassium hydroxide (28.0 g, 0.5 mol) in water (50 ml) and the mixture was stirred and held at reflux for 4 hours. Upon cooling to room temperature the methanol was removed in vacuo and the mixture acidified to pH 2 or below by the addition of 5M hydrochloric acid. The solid material was filtered off, washed with water and sucked dry under reduced pressure overnight to afford 4-methoxyphthalic acid (31.8 g, 99%) as an off white solid. 1H NMR (DMSO-d6) 12.90 (2H, br s), 7.74 (1H, d), 7.12-7.05 (2H, m), 3.84 (3H, s). MS: [M+H]+ 197.

reactant | dimethyl 4-methoxyphthalate | 0.16 mol, 36.75 g | COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H12O5
reactant | potassium hydroxide | 0.5 mol, 28.0 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 4-methoxyphthalic acid | 31.8 g, 99% | COC=1C=C(C(C(=O)O)=CC1)C(=O)O | C9H8O5
